US04229575
3-[(Acetyloxy)methyl]-7-[[(2,3-dihydro-5-benzofuranyl)-hydroxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
α-Hydroxy-(2,3-dihydro-5-benzofuranyl)acetic acid (10 mmole) triethylamine (10 mmole) and bistrimethylsilylacetamide (BSA) (10 mmole) are added to 50 ml of THF and refluxed for two hours. The reaction mixture is cooled to about -10° C. and 10 mmole of isobutyl chloroformate is added dropwise. After 30 minutes at -10° C., 10 mmole of 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 50 ml of water--20 ml of THF containing 10 mmole of triethylamine is added dropwise to the cooled reaction mixture. The temperature is maintained between -10° C. and 0° C. during the addition. The reaction mixture is allowed to come to room temperature very slowly. About 50 cc of saturated aqueous sodium bicarbonate and 100 ml of water are added to the reaction mixture. This mixture is treated several times with ether which is then discarded. The aqueous phase is layered with ethyl acetate and the pH of the aqueous solution is adjusted to 1.5. The ethyl acetate is then separated from the aqueous phase, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | α-Hydroxy-(2,3-dihydro-5-benzofuranyl)acetic acid | 10 mmole | OC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H10O4
reactant | bistrimethylsilylacetamide | 10 mmole | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | isobutyl chloroformate | 10 mmole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 10 mmole | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 50 cc | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mmole | C1CCOC1 | C4H8O
product | 3-[(Acetyloxy)methyl]-7-[[(2,3-dihydro-5-benzofuranyl)-hydroxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(O)C=1C=CC2=C(CCO2)C1)=O)=O)C(=O)O | C20H20N2O8S
